US04725601
To a solution of 3-mesyloxy-2-methoxy-1-hexen-5-yne (0.5 g) in acetone (1.5 ml) was added 20% sulfuric acid (1.5 ml) under ice-cooling and the mixture was stirred for 1.5 hours under the same conditions and then for 1.5 hours at room temperature. Acetone was evaporated in vacuo and the residue was extracted with methylene chloride. The extract was washed successively with water, aqueous sodium bicarbonate solution, and brine, dried over magnesium sulfate, and evaporated in vacuo to give 3-mesyloxy-5-hexyn-2-one (0.41 g).

reactant | 3-mesyloxy-2-methoxy-1-hexen-5-yne | 0.5 g | S(=O)(=O)(C)OC(C(=C)OC)CC#C | C8H12O4S
reactant | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 1.5 ml | CC(=O)C | C3H6O
product | 3-mesyloxy-5-hexyn-2-one | 0.41 g | S(=O)(=O)(C)OC(C(C)=O)CC#C | C7H10O4S
